US07226920B2
[1-(6-Chloro-pyrimidin-4-yl)-1H-[1,2,4]triazol-3-yl]-phenyl-amine:
A suspension of phenylaminotriazole (3.12 mmol), 4,6-dichloropyrimidine (4.1 mmol, 1.3 equivalents) and triethylamine (4.7 mmol, 1.5 equivalents) in acetonitrile (20 ml) was stirred at reflux for eighteen hours. The reaction mixture was partitioned between ethyl acetate and brine. A white precipitate formed and was removed by filtration to afford the the title compound which was used without purification in the next step. LC-MS: [MH+] 274.

reactant | phenylaminotriazole | 3.12 mmol | C1(=CC=CC=C1)NC=1N=NNC1 | C8H8N4
reactant | 4,6-dichloropyrimidine | 4.1 mmol, 1.3 equivalents | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | triethylamine | 4.7 mmol, 1.5 equivalents | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | [1-(6-Chloro-pyrimidin-4-yl)-1H-[1,2,4]triazol-3-yl]-phenyl-amine | ClC1=CC(=NC=N1)N1N=C(N=C1)NC1=CC=CC=C1 | C12H9ClN6
